US07915281B2
The methods described in Examples 30 and 31 were repeated on a larger scale to provide (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-2-yl)methanol. The reaction described in Example 31 was heated at reflux and was complete within three hours. Under a nitrogen atmosphere, a suspension of (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-2-yl)methanol (2.31 g, 5.93 mmol) in dichloromethane (100 mL) was cooled to −78° C. (Diethylamino)sulfur trifluoride (DAST) (0.95 mL, 7.2 mmol) was added dropwise. The mixture was stirred for 30 minutes at −78° C. and then was allowed to warm to room temperature slowly and stirred for one hour. The reaction mixture was diluted with dichloromethane and washed with saturated aqueous potassium carbonate. Additional dichloromethane and water were added to dissolve solids. The aqueous layer was separated and extracted with dichloromethane. The combined organic fractions were washed sequentially with water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 3% to 5% CMA in chloroform) followed by recrystallization from acetonitrile. The crystals were dried under high vacuum for 18 hours at 90° C. to provide 0.994 g of 2-(fluoromethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-4-amine as tan crystals, mp 192.0-193.0° C.

reactant | (4-amino-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-2-yl)methanol | 5.93 mmol, 2.31 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CO | C21H16FN5O2
reactant | (Diethylamino)sulfur trifluoride | 7.2 mmol, 0.95 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(fluoromethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinolin-4-amine | 0.994 g | FCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C21H15F2N5O
